Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],3.06277542356
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:3],4.04971635442
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]=[C:14]([H:15])[H:16]>>[C:10]([H:11])([H:12])=[C:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:14]([H:15])[H:16],3.56412027812
[C:1][C:2][O:3].[C:4]([H:5])#[C:6][O:7][H:8]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],1.09321010249
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2],0.8437686684899999
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C@@:3]([H:4])([O:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.59943788072
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10]>>[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])[H:10].[H:1][O:2],5.948173091669999
[C:1]#[C:2][C:3]([O:4][O:5][H:6])=[C:7][H:8].[H:9]>>[C:1]#[C:2][C:3]([O:4][O:5][H:6])=[C:7]([H:8])[H:9],-5.06261398179
[C:1]#[C:2][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.04263140417
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],3.1652112443
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1],4.84977746843
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[O:11][H:12],6.02447400489
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],5.03423682554
[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11],-2.76649658507
[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.4569514209800003
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.30010369862
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-0.868904869151
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5][H:6],6.28075263273
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14],-4.076860498409999
[H:1][C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3][C:5](=[C:4])[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-7.011108417410001
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11]>>[C:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11].[H:4],1.76959447967
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1],4.06678103242
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[O:10][C:11]1([H:12])[H:13],-1.71455282819
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10],3.60366857753
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[H:4],0.8273778491689999
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9],-2.25269109753
[H:1][O:2][C:3]=[C:9]([H:10])[H:11].[O:4]=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-0.33763669986100003
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8](=[O:9])[H:10],4.01538443915
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8][H:9]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9],-4.9842372502900005
